US06855836B2
B) E-17-Chloromethylene-4ξ,5ξ-epoxy-estran-3-one
3.93 mmol (1.2 9) of E-17-chloromethylen-estr-4-en-3-one is dissolved in a mixture of 12 ml of methanol and 10 ml of methylene chloride under a cover gas (argon) and cooled to 0° C. 9.2 mmol (0.94 ml) of hydrogen peroxide (30%) and 1.65 mmol (0.4 ml) of sodium hydroxide solution (c=4 mol/l) are added in drops in succession to the cooled solution while being stirred. After dropwise addition is completed, the temperature is slowly increased to room temperature. After about 1.5 hours of reaction time, the mixture is added to ice water and extracted with methylene chloride. The combined extracts are dried on sodium sulfate and concentrated by evaporation. 1.1 g of a white, sticky foam is obtained.

reactant | E-17-chloromethylen-estr-4-en-3-one | 3.93 mmol | Cl\C=C/1\[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O | C19H25ClO
reactant | hydrogen peroxide | 9.2 mmol, 0.94 ml | OO | H2O2
reactant | sodium hydroxide | 1.65 mmol, 4 mol/l, 0.4 ml | [OH-].[Na+]
solvent | methanol | 12 ml | CO | CH4O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | E-17-Chloromethylene-4ξ,5ξ-epoxy-estran-3-one | Cl\C=C/1\[C@]2(C)[C@@H](CC1)[C@@H]1CCC34C(C(CC[C@@H]3[C@H]1CC2)=O)O4 | C19H25ClO2
